US08217028B2
EDCI (144 mg) and HOBT (104 mg) were added to a solution of 3-chloro-4-[(1-methylethyl)oxy]benzoic acid (D32) (150 mg) in DMF (5 mL) at RT. The resulting solution was stirred for 15 min. Ethyl 5-[(hydroxyamino)(imino)methyl]-1H-indole-2-carboxylate (D22) (173 mg) was added and the reaction mixture was stirred at RT for 30 min. The reaction mixture was heated to 80° C. and stirred at that temperature for 5 hours. Most of the DMF was evaporated. EtOAc (50 mL) was added and the organic solution was washed with water (50 mL), saturated aqueous sodium bicarbonate solution (50 mL) and water (50 mL). The organic fraction was dried over anhydrous magnesium sulfate. The dried solution was concentrated. Trituration with ethanol provided ethyl 5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-2-carboxylate (D23) (85 mg) as a yellow solid. δH (DMSO-d6, 400 MHz): 1.37 (9H, m), 4.38 (2H, q), 4.89 (1H, m), 7.35 (1H, d), 7.45 (1H, d), 7.62 (1H, d), 7.98 (1H, dd), 8.12 (1H, dd), 8.20 (1H, d), 8.49 (1H, d), 12.27 (1H, s). MS (ES): C22H20ClN3O4 requires 425; found 426.1 (M+H+).

reactant | EDCI | 144 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 104 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoic acid | 150 mg | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
reactant | Ethyl 5-[(hydroxyamino)(imino)methyl]-1H-indole-2-carboxylate | 173 mg | ONC(C=1C=C2C=C(NC2=CC1)C(=O)OCC)=N | C12H13N3O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl 5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-2-carboxylate | 85 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C22H20ClN3O4
